*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN10NG1Z
* Property : L = 10[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN10NG1Z port1 port2
C1 port1 port2 4.19e-14
L2 port1 1 1.06e-8
R2 1 port2 4.10e-2
R3 port1 port2 2.04e+4
L4 port1 2 1.77e-7
R4 2 port2 15.4
L5 port1 3 3.99e-7
R5 3 port2 259
L6 port1 4 3.72e-8
C6 4 5 3.38e-15
R6 5 port2 83.6
.ENDS LQW18AN10NG1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN10NJ1Z
* Property : L = 10[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN10NJ1Z port1 port2
C1 port1 port2 4.19e-14
L2 port1 1 1.06e-8
R2 1 port2 4.10e-2
R3 port1 port2 2.04e+4
L4 port1 2 1.77e-7
R4 2 port2 15.4
L5 port1 3 3.99e-7
R5 3 port2 259
L6 port1 4 3.72e-8
C6 4 5 3.38e-15
R6 5 port2 83.6
.ENDS LQW18AN10NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN12NG1Z
* Property : L = 12[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN12NG1Z port1 port2
C1 port1 port2 2.07e-14
L2 port1 1 1.27e-8
R2 1 port2 6.10e-2
R3 port1 port2 2.41e+4
L4 port1 2 1.60e-7
R4 2 port2 13.6
L5 port1 3 5.71e-7
R5 3 port2 391
L6 port1 4 1.89e-8
C6 4 5 4.27e-15
R6 5 port2 26.7
.ENDS LQW18AN12NG1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN12NJ1Z
* Property : L = 12[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN12NJ1Z port1 port2
C1 port1 port2 2.07e-14
L2 port1 1 1.27e-8
R2 1 port2 6.10e-2
R3 port1 port2 2.41e+4
L4 port1 2 1.60e-7
R4 2 port2 13.6
L5 port1 3 5.71e-7
R5 3 port2 391
L6 port1 4 1.89e-8
C6 4 5 4.27e-15
R6 5 port2 26.7
.ENDS LQW18AN12NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN15NJ1Z
* Property : L = 15[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN15NJ1Z port1 port2
C1 port1 port2 2.17e-14
L2 port1 1 1.64e-8
R2 1 port2 6.10e-2
R3 port1 port2 4.80e+4
L4 port1 2 1.84e-7
R4 2 port2 13.6
L5 port1 3 5.71e-7
R5 3 port2 391
L6 port1 4 4.33e-8
C6 4 5 2.46e-15
R6 5 port2 53.2
.ENDS LQW18AN15NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN18NG1Z
* Property : L = 18[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN18NG1Z port1 port2
C1 port1 port2 3.47e-14
L2 port1 1 1.98e-8
R2 1 port2 6.10e-2
R3 port1 port2 4.00e+4
L4 port1 2 2.04e-7
R4 2 port2 14.8
L5 port1 3 6.00e-7
R5 3 port2 404
L6 port1 4 1.36e-8
C6 4 5 9.08e-15
R6 5 port2 38.9
.ENDS LQW18AN18NG1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN18NJ1Z
* Property : L = 18[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN18NJ1Z port1 port2
C1 port1 port2 3.47e-14
L2 port1 1 1.98e-8
R2 1 port2 6.10e-2
R3 port1 port2 4.00e+4
L4 port1 2 2.04e-7
R4 2 port2 14.8
L5 port1 3 6.00e-7
R5 3 port2 404
L6 port1 4 1.36e-8
C6 4 5 9.08e-15
R6 5 port2 38.9
.ENDS LQW18AN18NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN22NG1Z
* Property : L = 22[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN22NG1Z port1 port2
C1 port1 port2 2.36e-14
L2 port1 1 2.46e-8
R2 1 port2 7.10e-2
R3 port1 port2 4.46e+4
L4 port1 2 2.06e-7
R4 2 port2 14.2
L5 port1 3 7.85e-7
R5 3 port2 537
L6 port1 4 1.86e-7
C6 4 5 1.99e-15
R6 5 port2 605
L7 port1 6 1.58e-8
C7 6 7 9.78e-15
R7 7 port2 38.3
.ENDS LQW18AN22NG1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN22NJ1Z
* Property : L = 22[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN22NJ1Z port1 port2
C1 port1 port2 2.36e-14
L2 port1 1 2.46e-8
R2 1 port2 7.10e-2
R3 port1 port2 4.46e+4
L4 port1 2 2.06e-7
R4 2 port2 14.2
L5 port1 3 7.85e-7
R5 3 port2 537
L6 port1 4 1.86e-7
C6 4 5 1.99e-15
R6 5 port2 605
L7 port1 6 1.58e-8
C7 6 7 9.78e-15
R7 7 port2 38.3
.ENDS LQW18AN22NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN27NG1Z
* Property : L = 27[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN27NG1Z port1 port2
C1 port1 port2 2.30e-14
L2 port1 1 2.99e-8
R2 1 port2 8.30e-2
R3 port1 port2 7.00e+4
L4 port1 2 3.15e-7
R4 2 port2 21.8
L5 port1 3 8.81e-7
R5 3 port2 556
L6 port1 4 1.90e-8
C6 4 5 1.14e-14
R6 5 port2 39.3
L7 port1 6 8.10e-9
C7 6 7 8.16e-15
R7 7 port2 18.9
.ENDS LQW18AN27NG1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN27NJ1Z
* Property : L = 27[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN27NJ1Z port1 port2
C1 port1 port2 2.30e-14
L2 port1 1 2.99e-8
R2 1 port2 8.30e-2
R3 port1 port2 7.00e+4
L4 port1 2 3.15e-7
R4 2 port2 21.8
L5 port1 3 8.81e-7
R5 3 port2 556
L6 port1 4 1.90e-8
C6 4 5 1.14e-14
R6 5 port2 39.3
L7 port1 6 8.10e-9
C7 6 7 8.16e-15
R7 7 port2 18.9
.ENDS LQW18AN27NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN2N2D1Z
* Property : L = 2.2[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN2N2D1Z port1 port2
C1 port1 port2 3.32e-16
L2 port1 1 2.24e-9
R2 1 port2 1.30e-2
R3 port1 port2 1.29e+4
L4 port1 2 7.40e-8
R4 2 port2 37.8
L5 port1 3 2.74e-7
R5 3 port2 984
.ENDS LQW18AN2N2D1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN33NJ1Z
* Property : L = 33[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN33NJ1Z port1 port2
C1 port1 port2 1.74e-14
L2 port1 1 3.59e-8
R2 1 port2 9.40e-2
R3 port1 port2 5.44e+4
L4 port1 2 4.19e-7
R4 2 port2 28.4
L5 port1 3 1.18e-6
R5 3 port2 803
L6 port1 4 5.47e-8
C6 4 5 4.49e-15
R6 5 port2 104
L7 port1 6 6.38e-9
C7 6 7 1.21e-14
R7 7 port2 29.1
.ENDS LQW18AN33NJ1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN3N9C1Z
* Property : L = 3.9[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN3N9C1Z port1 port2
C1 port1 port2 1.91e-14
L2 port1 1 3.85e-9
R2 1 port2 2.30e-2
R3 port1 port2 2.04e+4
L4 port1 2 1.12e-7
R4 2 port2 65.8
L5 port1 3 2.95e-7
R5 3 port2 1.81e+3
.ENDS LQW18AN3N9C1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN3N9D1Z
* Property : L = 3.9[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN3N9D1Z port1 port2
C1 port1 port2 1.91e-14
L2 port1 1 3.85e-9
R2 1 port2 2.30e-2
R3 port1 port2 2.04e+4
L4 port1 2 1.12e-7
R4 2 port2 65.8
L5 port1 3 2.95e-7
R5 3 port2 1.81e+3
.ENDS LQW18AN3N9D1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN5N6D1Z
* Property : L = 5.6[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN5N6D1Z port1 port2
C1 port1 port2 1.72e-14
L2 port1 1 6.25e-9
R2 1 port2 3.20e-2
R3 port1 port2 1.84e+4
L4 port1 2 8.81e-8
R4 2 port2 3.87
L5 port1 3 1.64e-7
R5 3 port2 112
L6 port1 4 6.76e-7
R6 4 port2 1.54e+3
.ENDS LQW18AN5N6D1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN6N8C1Z
* Property : L = 6.8[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN6N8C1Z port1 port2
C1 port1 port2 4.11e-14
L2 port1 1 7.59e-9
R2 1 port2 3.20e-2
R3 port1 port2 1.52e+4
L4 port1 2 8.16e-8
R4 2 port2 6.24
L5 port1 3 2.63e-7
R5 3 port2 140
L6 port1 4 1.00e-6
R6 4 port2 2.89e+3
.ENDS LQW18AN6N8C1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN6N8D1Z
* Property : L = 6.8[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN6N8D1Z port1 port2
C1 port1 port2 4.11e-14
L2 port1 1 7.59e-9
R2 1 port2 3.20e-2
R3 port1 port2 1.52e+4
L4 port1 2 8.16e-8
R4 2 port2 6.24
L5 port1 3 2.63e-7
R5 3 port2 140
L6 port1 4 1.00e-6
R6 4 port2 2.89e+3
.ENDS LQW18AN6N8D1Z
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW18AN8N2D1Z
* Property : L = 8.2[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW18AN8N2D1Z port1 port2
C1 port1 port2 1.88e-14
L2 port1 1 8.96e-9
R2 1 port2 4.10e-2
R3 port1 port2 4.54e+4
L4 port1 2 8.69e-8
R4 2 port2 5.50
L5 port1 3 2.81e-7
R5 3 port2 199
L6 port1 4 1.03e-6
R6 4 port2 5.70e+3
.ENDS LQW18AN8N2D1Z
*----------------------------------------------------------------------
