*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CA60NK00
* Property : L = 60[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CA60NK00 port1 port2
C1 port1 port2 6.16e-14
L2 port1 1 6.50e-8
R2 1 port2 1.50e-1
R3 port1 port2 838
L4 port1 2 7.19e-7
R4 2 port2 44.1
L5 port1 3 2.57e-7
R5 3 port2 609
.ENDS LQW04CA60NK00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CA90NK00
* Property : L = 90[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CA90NK00 port1 port2
C1 port1 port2 4.89e-14
L2 port1 1 1.08e-7
R2 1 port2 2.00e-1
R3 port1 port2 1.18e+3
L4 port1 2 9.70e-7
R4 2 port2 38.4
L5 port1 3 4.17e-7
R5 3 port2 965
.ENDS LQW04CA90NK00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CAR12K00
* Property : L = 120[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CAR12K00 port1 port2
C1 port1 port2 4.78e-14
L2 port1 1 1.33e-7
R2 1 port2 2.30e-1
R3 port1 port2 1.42e+3
L4 port1 2 1.54e-6
R4 2 port2 90.0
L5 port1 3 5.89e-7
R5 3 port2 1.06e+3
.ENDS LQW04CAR12K00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CAR29K00
* Property : L = 290[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CAR29K00 port1 port2
C1 port1 port2 4.56e-14
L2 port1 1 3.12e-7
R2 1 port2 7.80e-1
R3 port1 port2 3.41e+3
L4 port1 2 3.17e-6
R4 2 port2 129
L5 port1 3 1.28e-6
R5 3 port2 2.85e+3
.ENDS LQW04CAR29K00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CAR45K00
* Property : L = 450[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CAR45K00 port1 port2
C1 port1 port2 5.12e-14
L2 port1 1 5.18e-7
R2 1 port2 1.02
R3 port1 port2 5.53e+3
L4 port1 2 4.28e-6
R4 2 port2 126
L5 port1 3 1.98e-6
R5 3 port2 4.41e+3
L6 port1 4 1.06e-6
C6 4 5 2.81e-15
R6 5 port2 4.45e+3
.ENDS LQW04CAR45K00
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : LQW04CAR51K00
* Property : L = 510[nH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 20GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT LQW04CAR51K00 port1 port2
C1 port1 port2 5.61e-14
L2 port1 1 5.81e-7
R2 1 port2 1.09
R3 port1 port2 5.53e+3
L4 port1 2 4.48e-6
R4 2 port2 118
L5 port1 3 2.49e-6
R5 3 port2 4.62e+3
L6 port1 4 2.32e-7
C6 4 5 1.94e-14
R6 5 port2 1.31e+3
.ENDS LQW04CAR51K00
*----------------------------------------------------------------------
